US05580883
To a solution of 4-(N-acetyl-N-hexylaminophenyloxy)piperidine (1.4 g) in ethanol (10 ml) were added potassium carbonate (1.2 g) and benzyl chloride (0.54 g) and the mixture was heated under reflux overnight. Water was added to the reaction mixture, which was extracted with ethyl acetate (50 ml×3). The combined extract was dried over anhydrous sodium sulfate and the solvent was distilled off. The residue was purified by silica gel column chromatography (developing solvent: methylene chloride/methanol =10/1 (v/v)) to obtain 4-(N-acetyl-N-hexylaminophenyloxy)-1-phenylmethylpiperidine (1.2 g) as a pale yellow oil.

reactant | 4-(N-acetyl-N-hexylaminophenyloxy)piperidine | 1.4 g | C(C)(=O)N(CCCCCC)C1=C(C=CC=C1)OC1CCNCC1 | C19H30N2O2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 0.54 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | Water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(N-acetyl-N-hexylaminophenyloxy)-1-phenylmethylpiperidine | 1.2 g | C(C)(=O)N(CCCCCC)C1=C(C=CC=C1)OC1CCN(CC1)CC1=CC=CC=C1 | C26H36N2O2
